US06511974B1
2-Chloro-4-cyanobenzoic Acid
To a stirred solution of 2-chloro-4-cyanobenzoic acid, methyl ester (24.3 g) in methanol (150 ml) was added 2.5N sodium hydroxide (54.5 ml). After stirring at room temperature. for 45 minutes, the solvent was removed in vacuo. The residue was dissolved in water, cooled in an ice bath, and made acidic with 2N hydrochloric acid (14 ml). The resulting precipitate was filtered and dried in vacuo to yield the title compound as a solid (22.55 g) m.p. 154-158° C.

reactant | 2-chloro-4-cyanobenzoic acid, methyl ester | 24.3 g | ClC1=C(C(=O)OC)C=CC(=C1)C#N | C9H6ClNO2
reactant | sodium hydroxide | 2.5N, 54.5 ml | [OH-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
product | 2-Chloro-4-cyanobenzoic Acid | 22.55 g | ClC1=C(C(=O)O)C=CC(=C1)C#N | C8H4ClNO2
